US08633173B2
N,N-Dimethyl-2(4-{4-[8-(2-oxo-1,2-dihydro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide
A solution of 2-(4-{4-[8-(2-Methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide (25 mg, 0.052 mmol) in acetic acid (1.3 mL) was added sodium iodide (15.4 mg, 0.103 mmol), and the reaction was stirred at 100° C. for 3 hours. The solvent was evaporated and the residue was diluted with dichloromethane. The dichloromethane solution was washed with 10% sodium thiosulfate solution, brine then dried over sodium sulfate, and concentrated. The product was purified by preparatory TLC (silica gel 10% methanol in dichloromethane) to give the product (13 mg, 54%). MP: >250° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 12.0 (bs, 1H), 9.60 (s, 1H), 8.88 (d, J=6.58 Hz, 1H), 8.75 (d, 1H), 8.45 (d, 1H), 7.70 (d, 2H), 7.50 (m, 1H), 7.20 (m, 2H), 7.05 (t, 1H), 6.45 (t, 1H), 3.25 (s, 2H), 3.05 (s, 3H), 2.90 (m, 2H), 2.78 (s, 3H), 2.45 (m, 1H), 2.10 (m, 2H), 1.85-1.90 (m, 4H). MS=472 (MH)+.

reactant | 2-(4-{4-[8-(2-Methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | 0.052 mmol, 25 mg | COC1=NC=CC=C1C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C | C27H31N7O2
reactant | sodium iodide | 0.103 mmol, 15.4 mg | [I-].[Na+]
solvent | acetic acid | 1.3 mL | C(C)(=O)O | C2H4O2
product | N,N-Dimethyl-2(4-{4-[8-(2-oxo-1,2-dihydro-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | 13 mg, 54% | CN(C(CN1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C=2C(NC=CC2)=O)=N1)=O)C | C26H29N7O2
